US06933387B2
(4R,10aR)-8-Bromo-6-ethyl-4-methyl-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole
Bromine (0.2 M solution in acetic acid, 0.48 mL, 96 μmol) was added dropwise at room temperature to a solution of (4R,10aR)-6-ethyl-4-methyl-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole (21 mg, 97 μmol) and sodium acetate (8.0 mg, 97 μmol) in acetic acid (0.5 mL). After 30 min the reaction mixture was diluted with dichloromethane and extracted with 2 M aq. potassium hydroxide solution, dried (MgSO4), and evaporated. Chromatography on SiO2 (CH2Cl2/MeOH/NH4OH 95:5:0.1) yielded the title compound (9 mg, 31%). Yellow oil. ISP-MS: m/e=295.3, 297.3 ([M+H]+).

reactant | Bromine | 96 μmol, 0.2 M, 0.48 mL | BrBr | Br2
reactant | (4R,10aR)-6-ethyl-4-methyl-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole | 97 μmol, 21 mg | C(C)C1=CC=CC=2C[C@H]3N(C12)[C@@H](CNC3)C | C14H20N2
reactant | sodium acetate | 97 μmol, 8.0 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4R,10aR)-8-Bromo-6-ethyl-4-methyl-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole | 9 mg, 31% | BrC1=CC=2C[C@H]3N(C2C(=C1)CC)[C@@H](CNC3)C | C14H19BrN2
